US05089513
A mixture of 5-iodosalicylic acid (10 g), N,N-dimethylformamide di-tert-butyl acetal (31 g) and toluene (50 ml) was heated to 85° C. for 30 minutes. The mixture was evaporated and the residue was partitioned between ethyl acetate and a saturated aqueous sodium bicarbonate solution. The organic phase was washed with water, dried (MgSO4) and evaporated to give tert-butyl 5-iodosalicylate as a solid (9 g). The product so obtained was reacted with 2-bromomethylnaphthalene using the procedure described in Example 1 to give tert-butyl 5-iodo-2-(naphth-2-ylmethoxy)benzoate in 44% yield, m.p. 90° C.

reactant | 5-iodosalicylic acid | 10 g | IC1=CC=C(C(C(=O)O)=C1)O | C7H5IO3
reactant | N,N-dimethylformamide di-tert-butyl acetal | 31 g | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 5-iodosalicylate | 9 g | IC1=CC=C(C(C(=O)OC(C)(C)C)=C1)O | C11H13IO3
